US05777118
2,2-Dimethyl-5-(3-methylisoxazol-5-yl)-4H-(1,3)benzodioxin-4-one
53 ml of the solution of 1-chloro-1-(N-hydroxyimino)ethane described above and 6.3 ml of triethylamine are added with stirring at 0° C. to a solution of 8.0 g of 2,2-dimethyl-5-(ethynyl)-4H-(1,3)benzodioxin-4-one in 400 ml of methyl tert-butyl ether, and the mixture is allowed to come to room temperature and is subsequently stirred overnight. A further 53 ml of the solution of 1-chloro-1-(N-hydroxyimino)ethane described above and 6.3 ml of triethylamine are added and the reaction solution is stirred at room temperature for 24 h. It is then poured into water containing phosphoric acid (pH 4) at 0° C. and extracted with methyl tert-butyl ether, and the combined organic phases are carefully washed with water, dried over sodium sulfate and concentrated. 8.8 g of crude product remain, which is chromatographed on silica gel using n-hexane/ethyl acetate. 4.1 g of colorless crystals are obtained, m.p. 74° C. (cf. Table 1, No. 1.020).

reactant | 1-chloro-1-(N-hydroxyimino)ethane | ClC(C)=NO | C2H4ClNO
reactant | triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-5-(ethynyl)-4H-(1,3)benzodioxin-4-one | 8.0 g | CC1(OC(C2=C(O1)C=CC=C2C#C)=O)C | C12H10O3
reactant | triethylamine | 6.3 ml | C(C)N(CC)CC | C6H15N
reactant | phosphoric acid | pH 4 | P(O)(O)(O)=O | H3O4P
solvent | methyl tert-butyl ether | 400 ml | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
product | 2,2-Dimethyl-5-(3-methylisoxazol-5-yl)-4H-(1,3)benzodioxin-4-one | 4.1 g | CC1(OC(C2=C(O1)C=CC=C2C2=CC(=NO2)C)=O)C | C14H13NO4
